US08541411B2
e) 2-(1-methylethyl)-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazol-4-ol
To a solution of 2-(1-methylethyl)-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazol-4-amine (300 mg) in H2O (20 mL), and conc. H2SO4 (1 mL) was added aqueous NaNO2 (78 mg) solution dropwise at 0° C. The mixture was stirred at 0° C. for 15 min and then heated to reflux for 1 h. The mixture was cooled to room temperature and the pH neutralized with aqueous NaHCO3 solution. The solution was extracted with DCM (250 mL×3). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in-vacuo. The residue was then purified by silica gel chromatography eluted with EtOAc:petroleum ether=1:1 to afford the desired product as a solid (80 mg, 27%). 1H NMR (300 MHz, DMSO-d6) δ ppm 1.21 (d, 6H, J=6.6 Hz), 2.91 (t, 4H, J=7.5 Hz), 3.03 (m, 1H, J=6.6 Hz), 3.64 (t, 4H, J=7.5 Hz), 5.89 (s, 2H), 6.27-6.34 (m, 3H), 7.32 (t, 1H, J=7.5 Hz), 7.59-7.70 (m, 2H), 7.83 (d, 1H, J=7.5 Hz), 8.00 (d, 1H, J=7.5 Hz), 8.27 (d, 1H, J=7.5 Hz), 9.55 (s, 1H); LC-MS: m/e=402 [M+1]+.

reactant | 2-(1-methylethyl)-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazol-4-amine | 300 mg | CC(C)C1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2N)N2CCOCC2 | C25H28N4O
reactant | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
reactant | NaNO2 | 78 mg | N(=O)[O-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2O | 20 mL | O | H2O
product | 2-(1-methylethyl)-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazol-4-ol | 80 mg, 27% | CC(C)C1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2O)N2CCOCC2 | C25H27N3O2
